US08202885B2
To a solution of 0.47 g of furo[2,3-b]pyridin-5-yl-methanol in 2 ml of DCM was added 10 ml of a Dess-Martins-Periodinane solution (15% in DCM). The reaction mixture was stirred overnight and then quenched with sat.-NaHCO3 and extracted with DCM. The organic phase was washed with brine, dried over MgSO4 and concentrated in vacuo. The resulting crude material was purified by CC using heptane/EtOAc 30/70 as eluant to yield 0.38 g of furo[2,3-b]pyridine-5-carbaldehyde as white solid.

reactant | furo[2,3-b]pyridin-5-yl-methanol | 0.47 g | O1C=CC=2C1=NC=C(C2)CO | C8H7NO2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | furo[2,3-b]pyridine-5-carbaldehyde | 0.38 g | O1C=CC=2C1=NC=C(C2)C=O | C8H5NO2
